### PR TITLE
feat(Topology/UniformSpace): prove that a uniform space is completely regular

### PR DESCRIPTION
**Pull request by adri326**
Provides the pseudometric definition of a uniform space (for any open set `s` and `x ∈ s`, there exists a finite family of pseudometric spaces on `X` and an `ε > 0`, such that the intersection of the balls of these pseudometric spaces is a subset of `s`),
and uses it to prove that `UniformSpace X` implies `CompletelyRegularSpace X`.

---

This PR aims to close the gap of pi-base's theorem [T345](https://topology.pi-base.org/theorems/T000345), which says that topological groups are completely regular. We already have a proof that topological groups are uniform, but it turns out that we do not have any connection between `UniformSpace X` and `CompletelyRegularSpace X`.

There is an equivalence between `UniformSpace X` and `CompletelyRegularSpace X`: the former implies the latter, and the latter implies *the existence of* the former. This PR provides the first half of this equivalence.

The construction of the pseudometric definition is based on N. Bourbaki, Chapter 9, Theorem 4.1

The proof that a uniform space is completely regular is based on [the outline on mathexchange](https://math.stackexchange.com/questions/494718/how-to-prove-that-every-uniform-space-is-completely-regular).

I tried to outline the major steps of the different proofs inside of comments; I can happily be more verbose to clear up any confusion.

See [the corresponding Zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Some.20missing.2C.20accessible.2C.20topology.20results) for more context.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/UniformSpace/CompletelyRegular.lean [hunk 1]
```diff
@@ -0,0 +1,325 @@
...
+/--
+If `x ∈ s` for some open `s`, then there exists a family of pseudometric spaces `D`
+and an `ε > 0`, such that:
+* `∀ m ∈ D`, the topology associated with `D` is coarser than the ambient topology on `X`.
+* The intersection of the balls $$B_d(x, ε)$$ for all `d ∈ D` is a subset of `s`.
+-/
+theorem exists_pseudoMetricSpace_family_of_isOpen {s : Set X} (s_open : IsOpen s)
+    {x : X} (x_in_s : x ∈ s) : ∃ D : Set (PseudoMetricSpace X), D.Finite ∧
+      (∀ m ∈ D, unf.toTopologicalSpace ≤ m.toUniformSpace.toTopologicalSpace) ∧
+      ∃ (ε : ℝ), 0 < ε ∧ ⋂ m ∈ D, @Metric.ball X m x ε ⊆ s := by
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/CompletelyRegular.lean:174]: I think in this proof you're making your life harder by trying to use the explicit family of metrizable uniformities that you've built. 

What I would do is start by this general lemma, which doesn't mention `uniformSpaceOf` explicitly:
```lean
variable (X) in
theorem UniformSpace.eq_iInf_pseudoMetric :
    unf = ⨅ (m : PseudoMetricSpace X) (_ : unf ≤ m.toUniformSpace), m.toUniformSpace :=
  sorry
```

Then, you can do something like this:
```lean
theorem exists_pseudoMetricSpace_family_of_nhds {s : Set X} {x : X} (hxs : s ∈ 𝓝 x) :
    ∃ D : Set (PseudoMetricSpace X), D.Finite ∧
      (∀ m ∈ D, unf.toTopologicalSpace ≤ m.toUniformSpace.toTopologicalSpace) ∧
      ∃ (ε : ℝ), 0 < ε ∧ ⋂ m ∈ D, @Metric.ball X m x ε ⊆ s := by
  rw [UniformSpace.eq_iInf_pseudoMetric X, iInf_subtype'] at hxs
  simp_rw [toTopologicalSpace_iInf, nhds_iInf, Filter.mem_iInf'] at hxs
  rcases hxs with ⟨D, D_finite, V, hVx, -, rfl, -⟩
  use (↑) '' D, D_finite.image _, ball_image_of_ball fun m hm ↦ toTopologicalSpace_mono m.2
  simp_rw [@Metric.mem_nhds_iff X (_)] at hVx
  choose ε ε_pos hεV using hVx
  by_cases D_nonempty : D.Nonempty
  · refine ⟨sInf (ε '' D), ?_, ?_⟩
    · rw [((D_finite.image _).lt_cInf_iff (D_nonempty.image _)), ball_image_iff]
      exact fun m _ ↦ ε_pos m
    · rw [biInter_image]
      refine iInter₂_mono fun m hm ↦ (@Metric.ball_subset_ball X (_) _ _ _ ?_).trans (hεV m)
      exact csInf_le (D_finite.image _).bddBelow (mem_image_of_mem _ hm)
  sorry -- stupid case...
```

Of course this second proof could very easily use `uniformity_eq_iInf_uniformSpaceOf` directly, but I think it's cleaner to indicate that it really doesn't rely on the specific form of the uniformities at play.

Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/CompletelyRegular.lean:174]: In fact, what do you think of hiding the full construction inside `UniformSpace.eq_iInf_pseudoMetric` (or some version where you take the infimum on countably generated uniformities)? I don't think one ever needs to use the explicit family `UniformSpaceOf`, do you have any example in mind where it's useful?

File: Mathlib/Topology/UniformSpace/CompletelyRegular.lean [hunk 2]
```diff
@@ -0,0 +1,325 @@
...
+
+## References
+
+* N. Bourbaki, General Topology, Chapter 9
+* Stephen Willard, General Topology
+
+-/
+
+variable {X : Type*} [unf : UniformSpace X]
+open Topology Uniformity
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/CompletelyRegular.lean:50]:
```suggestion
open Topology Uniformity Set Filter
```
This will make your life easier :)

File: Mathlib/Topology/UniformSpace/CompletelyRegular.lean [hunk 3]
```diff
@@ -0,0 +1,325 @@
...
+  rw [Filter.le_generate_iff]
+  intro r
+  simp only [Set.mem_setOf_eq, Filter.mem_sets, forall_exists_index]
+  intro n r_eq
+  exact r_eq ▸ (UniformityBasisOf s_in_unf n).prop
+
+/--
+The uniform space associated with a set `s ∈ 𝓤 X`:
+
+* It is finitely generated (`UniformSpace.uniformSpaceOf_finitelyGenerated`).
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/CompletelyRegular.lean:98]: Do you mean countably?

File: Mathlib/Topology/UniformSpace/CompletelyRegular.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/CompletelyRegular.lean:174]: Two extra things:
- I assumed `s ∈ 𝓝 x` because it's enough, and it highlights that this is really a local lemma
- Please keep your comments! More generally, feel free to make the proof longer for readability, my point was to illustrate how to cut some arguments, not to golf the proof.

File: Mathlib/Topology/UniformSpace/CompletelyRegular.lean (hunk 3 above)
Comment (adri326) [reply Mathlib/Topology/UniformSpace/CompletelyRegular.lean:98]: Whoops, yes

**Comment by plp127** [comment]
What's the status of this PR, now that #32080 is merged?

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
